US07700641B2
Synthesis of (4′-bromo-2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetic acid
Following the procedure as described in EXAMPLE 2, and making non-critical variations using ethyl(4′-bromo-2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetate to replace ethyl(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetate, the title compound was obtained (98%) as a colorless solid: MS (ES−) m/z 415.2 (M−1).

reactant | ethyl(4′-bromo-2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetate | C(C)OC(CN1C(C2(C3=C(C=CC=C13)Br)C1=C(OC2)C=C2OCCC2=C1)=O)=O | C21H18BrNO5
reactant | ethyl(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)acetate | C(C)OC(CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O)=O | C20H17NO6
product | (4′-bromo-2′-oxo-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-1′(2′H)-yl)acetic acid | BrC1=C2C3(C(N(C2=CC=C1)CC(=O)O)=O)C1=C(OC3)C=C3OCCC3=C1 | C19H14BrNO5
